US06953793B2
D. 1-{3-[5-Acetyl-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperidin-4-one.
A suspension of 0.50 g (0.96 mmol) of 1-{3-(4-chloro-phenyl)-1-[3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-2-hydroxy-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone in 1 N HCl (2.0 mL) was heated to 65° C. for 48 h in a sealed vessel. The reaction was allowed to cool to room temperature and was diluted with CHCl3 (20 mL) and saturated NaHCO3 (20 mL). The aqueous phase was extracted with CHCl3 (2×10 mL) and the combined organic extracts were dried over Na2SO4 and the solvent was removed under reduced pressure. The crude material was then diluted with Ac2O (3.0 mL) and was stirred for 48 h. The solvent was removed under reduced pressure and the crude material was pumped down overnight. The resulting solid was dissolved in MeOH (5.0 mL) and a catalytic amount (0.05 g) of K2CO3 was added to the mixture and stirring was continued overnight. The reaction was then diluted with H2O (20 mL) and CH2Cl2 (20 mL) and the layers were separated. The aqueous phase was extracted with CH2Cl2 (2×10 mL) and the combined organic extracts were dried over Na2SO4 and the solvent was removed under reduced pressure. Purification by flash chromatography (silica, 0-10% MeOH/CH2Cl2) afforded 0.29 g (65% over 3 steps) of a white solid. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.35. MS (electrospray); m/z calculated for C22H27ClN4O3, [M+H]+, 431.18, observed 431.1. 1H NMR (400 MHz, CDCl3, a mixture of amide rotamers): 7.59 (d, J=8.3 Hz, 1H), 7.53 (d, J=8.6 Hz, 1H), 7.41 (d, J=8.5 Hz, 1H), 7.37 (d, J=8.5 Hz, 1H), 4.85 and 4.73 (A and B of AB quartet, Jab=15.8 Hz, 1H), 4.62 (s, 1H), 4.26-4.12 (m, 2H), 4.09-3.68 (m, 4H), 3.49 (s, 1.5H), 3.28 (s, 1.5H).

reactant | 1-{3-(4-chloro-phenyl)-1-[3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-2-hydroxy-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone | 0.96 mmol, 0.50 g | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CC(CN2CCC1(OCCO1)CC2)O | C24H31ClN4O4
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | HCl | 1 N, 2.0 mL | Cl | ClH
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | 1-{3-[5-Acetyl-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperidin-4-one | C(C)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)Cl)CC(CN2CCC(CC2)=O)O | C22H27ClN4O3
